US07772253B2
The necessary intermediate 2,6-Diethoxy-4′-trifluoromethyl-biphenyl-4-carbaldehyde was prepared as described in example 94, but coupling in the Suzuki reaction 3,5-diethoxy-4-iodo-benzaldehyde instead of 3-benzyloxy-5-ethoxy-4-iodo-benzaldehyde with 4-trifluoromethyl-phenyl boronic acid instead of 4-fluorophenyl boronic acid, as white crystals.

reactant | 3,5-diethoxy-4-iodo-benzaldehyde | C(C)OC=1C=C(C=O)C=C(C1I)OCC | C11H13IO3
reactant | 4-trifluoromethyl-phenyl boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 2,6-Diethoxy-4′-trifluoromethyl-biphenyl-4-carbaldehyde | C(C)OC1=C(C(=CC(=C1)C=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C18H17F3O3
